US06362373B1
(+)-(1S,2S,4R)-2-(1-Imidazolyl)-1-methyl-4-(1-methylethenyl)cyclohexanol
To (R)-(+)-limonene oxide (6.88 mmol, 1.047 g, 1.13 mL) were added 6 mL of deionized water and imidazole (21 mmol, 1.43 g) at 25° C. A reflux condenser was attached and the flask was set in an oil bath that was heated to 100° C. After 5.0 h at 100° C., the reaction mixture was cooled to 25° C., acidified with 12M hydrochloric acid, and extracted with diethyl ether (7×30 mL). The aqueous layer was cooled to 0° C. and treated with solid sodium hydroxide until the solution was strongly basic to litmus (pH 10). The solution was extracted with methylene chloride (10×30 mL) and the combined extracts were dried. The solvent was removed in vacuo leaving a semi-solid material that was taken up in hot diethyl ether. The solution was cooled to give a white, crystalline solid, mp 126-128° C.; [α]25D=+11.4 (c=3.5 in CHCl3); IR (KBr) 3210.0, 2850.0 cm−1.

reactant | (R)-(+)-limonene oxide | 6.88 mmol, 1.13 mL, 1.047 g | CC(=C)[C@@H]1CC[C@]2([C@@H](C1)O2)C | C10H16O
reactant | imidazole | 21 mmol, 1.43 g | N1C=NC=C1 | C3H4N2
reactant | hydrochloric acid | 12M | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | 6 mL | O | H2O
product | (+)-(1S,2S,4R)-2-(1-Imidazolyl)-1-methyl-4-(1-methylethenyl)cyclohexanol | N1(C=NC=C1)[C@@H]1[C@](CC[C@H](C1)C(=C)C)(O)C | C13H20N2O
